US08445530B2
(Benzhydrylidene-amino)-acetic acid ethyl ester (0.113 g, 0.414 mmol) was dissolved in DMF (3 ml) and cooled in an ice bath. Potassium tert-butoxide (94.8 mg, 0.828 mmol) was added, and the mixture was stirred for 10 min. The mixture was cooled to −30° C., and 3,4-bis-chloromethyl-thiophene (50 mg, 0.276 mmol) was added in one portion. The mixture was then placed into an ice bath again, and the reaction allowed to proceed for 20 min. The mixture was acidified with 2 N hydrochloric acid, stirred for 10 min and partitioned between water and diethyl ether. The aqueous phase was neutralized with a saturated sodium hydrogencarbonate solution and extracted with EA. The combined EA extracts were washed with a saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated to dryness. The residue was dissolved in diethyl ether, filtered, evaporated to dryness, acidified with hydrogen chloride in methanol and evaporated to dryness. The residue was stirred with an diethyl ether/HEP mixture, and the solid was filtered and dried in vacuo to give crude 5-amino-5,6-dihydro-4H-cyclopenta[c]thiophene-5-carboxylic acid ethyl ester hydrochloride. A part of the crude compound (27 mg, 0.109 mmol) was reacted without further purification with 4-methoxy-3-(2-m-tolyl-ethoxy)-benzoic acid in analogy to step 1 of example 15. After purification by preparative RP HPLC (water/ACN gradient), 23 mg of the title compound were obtained.

reactant | (Benzhydrylidene-amino)-acetic acid ethyl ester | 0.414 mmol, 0.113 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | Potassium tert-butoxide | 0.828 mmol, 94.8 mg | CC(C)([O-])C.[K+]
reactant | 3,4-bis-chloromethyl-thiophene | 0.276 mmol, 50 mg | ClCC1=CSC=C1CCl | C6H6Cl2S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-amino-5,6-dihydro-4H-cyclopenta[c]thiophene-5-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C1(CC=2C(=CSC2)C1)N | InChI=1S/C10H13NO2S.ClH/c1-2-13-9(12)10(11)3-7-5-14-6-8(7)4-10;/h5-6H,2-4,11H2,1H3;1H
